US07919628B2
To a mixture of 10 g of 5-amino-1-hydroxynaphthalene in 250 ml of acetonitrile and 25 ml of methanol was added 15 ml of diisopropylethylamine followed by 44 ml of 2M TMSCHN2 in ether. The mixture was stirred at room temperature for 3.5 h after which it was concentrated to a dark oil. The material was purified by flash chromatography on silica gel, eluting with ethyl acetate/dichloromethane/heptane to provide 6.9 g (63%) of 5-amino-1-methoxynaphthalene.

reactant | 5-amino-1-hydroxynaphthalene | 10 g | NC1=C2C=CC=C(C2=CC=C1)O | C10H9NO
reactant | diisopropylethylamine | 15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TMSCHN2 | 2M, 44 ml | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | methanol | 25 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 5-amino-1-methoxynaphthalene | 6.9 g, 63% | NC1=C2C=CC=C(C2=CC=C1)OC | C11H11NO
